US08278445B2
Preparation of methyl (E)-2-(2-(6-chloropyrimidine-4-oxy)phenyl)-3-methoxyacrylate
Under the dried nitrogen atmosphere, to a reaction flask were added 150 mL of dichloromethane and 11.4 g of titanium tetrachloride, and then 6.4 g of trimethyl orthoformate was further added under violent stirring. After being stirred at room temperature for 1 hr, the mixture was cooled to −5° C., followed by adding thereto 13.9 g of methyl 2-(2-(6-chloropyrimidin-4-oxy)phenyl)acetate. The resultant was stirred for 30 min, and then 12.1 g of triethylamine was added and the resultant was stirred for 1 hr. The resulting reaction mixture was washed with 40 mL of 10% hydrochloric acid, dried with anhydrous magnesium sulfate and evaporated under vacuum to obtain a brown viscous substance. The brown viscous substance was dissolved in 100 mL of hot toluene, cooled to room temperature and then treated with 0.9 g of benzyltriethylammonium chloride, 15 g of 20% sodium hydroxide aqueous solution and 12.6 g of dimethyl sulfate. After that, the mixture was stirred at room temperature for 5 hrs, followed by being heated to 50° C., and the reaction went on under stirring for another 1 hr. The resulting mixture was washed with 50 mL of water, evaporated under reduced pressure and purified with flash column chromatography to obtain 14.6 g pale yellow solid. The yield was 91%.

reactant | trimethyl orthoformate | 6.4 g | C(OC)(OC)OC | C4H10O3
reactant | methyl 2-(2-(6-chloropyrimidin-4-oxy)phenyl)acetate | 13.9 g | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)CC(=O)OC | C13H11ClN2O3
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | dimethyl sulfate | 12.6 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | benzyltriethylammonium chloride | 0.9 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
catalyst | titanium tetrachloride | 11.4 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | triethylamine | 12.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | methyl (E)-2-(2-(6-chloropyrimidine-4-oxy)phenyl)-3-methoxyacrylate | 14.6 g, yield was 91% | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C15H13ClN2O4
